US05466682
[4-(2-Acetoxybenzoyl)-amino-1-hydroxybutylidene]-diphosphonic acid
3.18 g (9.8 mmoles ) of sodium trihydrogen 4-amino-1-hydroxybutylidenediphosphonate trihydrate are added in 30 ml of water to 1.8 g (45 mmoles) of sodium hydroxide, 100 mg of p-dimethylaminopyridine and 200 mg of tetrahexylammonium iodide. The resulting solution is cooled to 0° C., and added with 2.03 g (10.2 mmoles) of 2-acetoxybenzoic acid chloride dissolved in 10 ml of diethyl ether. The reaction mixture is stirred for 2 hours at room temperature, then it is extracted with ethyl ether and the aqueous solution is acidified with concentrated HCl under stirring, with cooling. [4-(2-Hydroxybenzoyl)-amino-1-hydroxybutylidene]-diphosphonic acid precipitates, which is filtered, washed and dried at 70° C. and transformed into the title product by means of acetylation with acetic anhydride.

reactant | sodium trihydrogen 4-amino-1-hydroxybutylidenediphosphonate trihydrate | 9.8 mmoles, 3.18 g | O.O.O.NCCCC(O)(P(O)([O-])=O)P(O)(O)=O.[Na+]
reactant | sodium hydroxide | 45 mmoles, 1.8 g | [OH-].[Na+]
reactant | 2-acetoxybenzoic acid chloride | 10.2 mmoles, 2.03 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | water | 30 ml | O | H2O
catalyst | p-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | tetrahexylammonium iodide | 200 mg | [I-].C(CCCCC)[N+](CCCCCC)(CCCCCC)CCCCCC
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | [4-(2-Acetoxybenzoyl)-amino-1-hydroxybutylidene]-diphosphonic acid | C(C)(=O)OC1=C(C(=O)C(CCC(O)(P(O)(O)=O)P(O)(O)=O)N)C=CC=C1 | C13H19NO10P2
